US04439514
N-(2-Propynyl)-2,4-dinitro-5-fluoroaniline
To a suspension of potassium carbonate (6.0 g) in acetone (25 ml) was added triethylamine (1.5 ml) and 2-propyn-1-amine (2.35 g, 4.25×10-2 mole). 1,5-Difluoro-2,4-dinitrobenzene (10.00 g, 4.90×10-2 mole) was added and the reaction mixture was stirred at room temperature for 24 hours. The mixture was poured into excess water and filtered. The resulting dark solid was chromatographed on a silica column, eluting with benzene, and recrystallized from benzene to afford yellow crystals; m.p. 113°-115° C. Yield: 8.33 g (82%). I.R. (KBr): 3340 (NH), 3280 (CH), 1615, 1260 (Ar-NO2) and 1210 cm-1 (Ar-F).

reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-propyn-1-amine | 4.25×10-2 mole, 2.35 g | C(C#C)N | C3H5N
reactant | 1,5-Difluoro-2,4-dinitrobenzene | 4.90×10-2 mole, 10.00 g | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-] | C6H2F2N2O4
reactant | KBr | [K+].[Br-]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
product | N-(2-Propynyl)-2,4-dinitro-5-fluoroaniline | C(C#C)NC1=C(C=C(C(=C1)F)[N+](=O)[O-])[N+](=O)[O-] | C9H6FN3O4
